US04929622
10-Chloro-3-cyclopropylmethyl-6,12-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine
To a stirred solution of 2.2 g of 10-chloro-6,12-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine and 40 ml of dimethylformamide was added 3.2 ml of diisopropylethyl amine and 1.07 ml of cyclopropylmethyl bromide, under nitrogen. The reaction mixture was warmed in an oil bath maintained at 70°-77° C. Additional cyclopropylmethyl bromide (0.16 ml) was added, warming continued for a total of 3 hr, and the solution was poured into dilute aqueous ammonium chloride solution and ethyl acetate. The layers were separated and the aqueous layer extracted with ethyl acetate and ether. The combined organic layers were washed with brine, dried over anhydrous potassium carbonate and filtered. The filtrate was concentrated. The residue was purified by flash column chromatography (silica gel, 2% triethylamine/0-5% methanol/ethyl acetate) followed by recrystallization from ether/dichloromethane/pentane to afford 0.97 g (32%) of product. The product was combined with products from two other reactions. The combined material was recrystallized from dichloromethane and the sublimed (175°-180° C., about 0.2 mm) to give the analytical sample, mp 187°-190° C.

reactant | 10-chloro-6,12-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine | 2.2 g | ClC=1CN=CC2(C3=C(C1)C1=C(CC3)NC(C1)C2C)C | C16H19ClN2
reactant | diisopropylethyl amine | 3.2 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cyclopropylmethyl bromide | 1.07 ml | C1(CC1)CBr | C4H7Br
reactant | cyclopropylmethyl bromide | 0.16 ml | C1(CC1)CBr | C4H7Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 10-Chloro-3-cyclopropylmethyl-6,12-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine | 0.97 g, 32% | ClC=1CN=CC2(C3=C(C1)C1=C(CC3)N(C(C1)C2C)CC2CC2)C | C20H25ClN2
